US06399598B1
N-Hydroxy-1-[(4Methoxyphenyl)sulfonyl]-5(1-methyl-1H-imidazole- sulfonyl)diazepine-2-carboxamide (7d):
The 1-[(4-methoxyphenyl)sulfonyl]-5-(1-methyl-1H-imidazole4-sulfonyl) diazepine-2-carboxylic acid (0.35 g, 0.76 mmol) is dissolved in methylene chloride (10 mL) at room temperature followed the addition of oxalyl chloride (0.14 mL, 1.56 mmol) and the slow addition of DMF (0.058 mL, 0.76 mmol). This mixture is stirred for 30 minutes at room temperature. In a separate flask, hydroxylamine hydrochloride (0.21 g, 1.56 mmol) in water (2 mL) and THF (5 mL) are stirred at 0° C. and then triethylamine (0.634 mL, 4.56 mmol) is added. This mixture is stirred for 15 minutes. The acid chloride solution is added to the hydroxyl amine solution at 0° C. and the resulting solution is warmed to room temperature and stirred for 3 hours. The solution is acidified to pH˜1 with 1N HCl, poured into water, and extracted with methylene chloride. The organic extracts are dried (Na2SO4) and concentrated down to an oil. The oil is purified by HPLC with a reverse phase column using 80% (95% water, 5% acetonitrile, 0.1% formic acid) and 20% (80% acetonitrile, 20% water) as the eluent.

reactant | 1-[(4-methoxyphenyl)sulfonyl]-5-(1-methyl-1H-imidazole4-sulfonyl) diazepine-2-carboxylic acid | 0.76 mmol, 0.35 g | COC1=CC=C(C=C1)S(=O)(=O)N1N(CC=C(C=C1)S(=O)(=O)C=1N=CN(C1)C)C(=O)O | C17H18N4O7S2
reactant | oxalyl chloride | 1.56 mmol, 0.14 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.76 mmol, 0.058 mL | CN(C)C=O | C3H7NO
reactant | hydroxylamine hydrochloride | 1.56 mmol, 0.21 g | Cl.NO
reactant | triethylamine | 4.56 mmol, 0.634 mL | C(C)N(CC)CC | C6H15N
reactant | hydroxyl amine | ON | H3NO
reactant | HCl | 1N | Cl | ClH
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 2 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-Hydroxy-1-[(4Methoxyphenyl)sulfonyl]-5(1-methyl-1H-imidazole- sulfonyl)diazepine-2-carboxamide | ONC(=O)N1N(C=CC(=CC1)S(=O)(=O)C=1N(C=CN1)C)S(=O)(=O)C1=CC=C(C=C1)OC | C17H19N5O7S2
